US07504401B2
To 1.0 g (2.45 mmol) of 3,5-dibromotriisopropylsiloxybenzene in 20.0 mL of anhydrous 1,4-dioxane was added 1.12 g (3.43 mmol) of Cs2CO3, 0.32 g (2.7 mmol) of 5-amino-pyridine-2-carbonitrile and 43 mg (0.074 mmol) Xantphos. The reaction mixture was deoxygenated by bubbling argon for 30 mins and then treated with 57 mg (0.049 mmol) of Pd(PPh3)4. The reaction vial was capped and heated at 100° C. for 4 hours. The reaction mixture was cooled to room temperature, filtered through Celite®, and the filter cake was washed with ethyl acetate. The ethyl acetate layer was washed with water and brine, dried over anhydrous sodium sulfate, filtered and concentrated. The crude product was chromatographed on silica gel using 5:1 hexane:ethyl acetate to give 506 mg of 4-(3-bromo-5-triisopropylsilanyloxy-phenylamino)-benzonitrile.

reactant | 3,5-dibromotriisopropylsiloxybenzene | 2.45 mmol, 1.0 g | BrC=1C=C(C=C(C1)Br)O[Si](C(C)C)(C(C)C)C(C)C | C15H24Br2OSi
reactant | Cs2CO3 | 3.43 mmol, 1.12 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 5-amino-pyridine-2-carbonitrile | 2.7 mmol, 0.32 g | NC=1C=CC(=NC1)C#N | C6H5N3
solvent | 1,4-dioxane | 20.0 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 0.049 mmol, 57 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | Xantphos | 0.074 mmol, 43 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
product | 4-(3-bromo-5-triisopropylsilanyloxy-phenylamino)-benzonitrile | 506 mg | BrC=1C=C(C=C(C1)O[Si](C(C)C)(C(C)C)C(C)C)NC1=CC=C(C#N)C=C1 | C22H29BrN2OSi
